US04963590
3,4-Dihydroxy-5-nitrobenzylalcohol
To a solution containing 6.0 g of sodium borohydride in 50 ml of water 9.15 g of 3,4-dihydroxy-5-nitrobenzaldehyde was gradually added with stirring at room temperature. The mixture was stirred for 1 h more after which it was acidified with hydrochloric acid. The solution was filtered to remove tarry impurities and extracted 4 times with ether. The ether extract was dried over anhydrous sodium sulfate, filtered and concentrated to a volume of about 100 ml.

reactant | sodium borohydride | 6.0 g | [BH4-].[Na+]
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml, 9.15 g | O | H2O
product | 3,4-Dihydroxy-5-nitrobenzylalcohol | OC=1C=C(CO)C=C(C1O)[N+](=O)[O-] | C7H7NO5
